US08685969B2
(E)-Benzyl 2-methyl-3-(2-nitroprop-1-enyl)phenylcarbamate (0.6849 g, 1.574 mmol) and 6-(2-methoxyethoxy)-1H-indole (0.602 g, 3.15 mmol) were dissolved in THF (50 mL), concentrated in vacuo, and melted at 140° C. for 12 h. After cooling to room temperature, the crude product was purified by flash chromatography using an ISCO 40 g column (solid loading) eluting with 20-75% EtOAc/hexane. Appropriate fractions were collected and concentrated in vacuo to give benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitropropyl)-2-methylphenylcarbamate (0.4102 g, 0.793 mmol, 50.4% yield, mixture of 2 isomers) as a yellow oil, LC/MS (M+H)=518.12, 518.13.

reactant | (E)-Benzyl 2-methyl-3-(2-nitroprop-1-enyl)phenylcarbamate | 1.574 mmol, 0.6849 g | CC1=C(C=CC=C1\C=C(/C)\[N+](=O)[O-])NC(OCC1=CC=CC=C1)=O | C18H18N2O4
reactant | 6-(2-methoxyethoxy)-1H-indole | 3.15 mmol, 0.602 g | COCCOC1=CC=C2C=CNC2=C1 | C11H13NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitropropyl)-2-methylphenylcarbamate | 0.793 mmol, 0.4102 g, 50.4% yield | COCCOC1=CC=C2C(=CNC2=C1)C(C(C)[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C29H31N3O6
